US20010000513A1
To a stirred solution of diisopropylamine (0.295 mL, 0.0021 mol) in anhydrous tetrahydrofuran (10 mL) at room temperature under nitrogen was added in portions a 2.1 M solution of n-butyl lithium in hexanes (1.0 mL, 0.0021 mol), and the mixture cooled to −78° C. To the solution was added a solution of 4-(4′-chloro-biphenyl-4-yl)-4-oxo-butyric acid (0.288 g, 0.000997 mol) in THF (10 mL), and the mixture stirred for 1 hour. To the yellow solution was added dropwise a solution of N-fluorodibenzenesulfonamide (NFSI, 0.346 g, 0.00110 mol) in THF (10 mL), and the mixture stirred for 2 hours at −78° C. The mixture was allowed to warm to room temperature and stirred for 16 hours. The reaction was quenched with 1 M hydrochloric acid (1.1 mL, 0.0011 mol HCl), and the mixture was rotary evaporated to dryness. The residue was passed through a column of silica gel, eluting with dichloromethane-methanol (10:1 then 9:1) to give a gum. The gum was dissolved in methanol and acidified with additional 1 M hydrochloric acid (3.4 mL, 0.0034 mol HCl). The volatiles were rotary evaporated, and the resulting suspension was filtered. The filter cake was purified by chromatography on silica gel, eluting with dichloromethane-methanol (14:1) to give 0.030 g of (±)-4-(4′-chloro-biphenyl-4-yl)-3-fluoro4-oxo-butyric acid as a white solid; mp 170-173° C.

reactant | diisopropylamine | 0.0021 mol, 0.295 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-(4′-chloro-biphenyl-4-yl)-4-oxo-butyric acid | 0.000997 mol, 0.288 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13ClO3
reactant | N-fluorodibenzenesulfonamide | 0.00110 mol, 0.346 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | hydrochloric acid | 0.0011 mol, 1 M, 1.1 mL | Cl | ClH
reactant | hydrochloric acid | 0.0034 mol, 1 M, 3.4 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | (±)-4-(4′-chloro-biphenyl-4-yl)-3-fluoro4-oxo-butyric acid | 0.030 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(CC(=O)O)F)=O | C16H12ClFO3
